US04386080
A Grignard reagent was prepared from a solution of 1-bromo-4-fluorobenzene (50 g.) in diethyl ether (100 ml.) and a stirred suspension of magnesium (6.8 g.) in diethyl ether (20 ml.), and was heated under reflux for 1 hour and then cooled to 0° C. A solution of pyruvic acid (10.8 g.) in diethyl ether (50 ml.) was added dropwise and the mixture was stirred at laboratory temperature for 17 hours, cooled to 0° C., acidified with dilute aqueous hydrochloric acid and extracted three times with diethyl ether. The combined ethereal extracts were washed with water and extracted with saturated aqueous sodium bicarbonate solution, and the bicarbonate extract was acidified with concentrated aqueous hydrochloric acid and then extracted three times with ethyl acetate. The combined ethyl acetate extracts were washed with water and then with saturated aqueous sodium chloride solution, dried over magnesium sulphate and evaporated to dryness under reduced pressure. There was thus obtained as residue 2-p-fluorophenyl-2-hydroxypropionic acid which was used without further purification.

reactant | 1-bromo-4-fluorobenzene | 50 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | magnesium | 6.8 g | [Mg] | Mg
reactant | pyruvic acid | 10.8 g | C(C(=O)C)(=O)O | C3H4O3
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 2-p-fluorophenyl-2-hydroxypropionic acid | FC1=CC=C(C=C1)C(C(=O)O)(C)O | C9H9FO3
